US04810706
0.13 Moles of 3-phenylsulfonyl-1-chloropropane were combined with 0.14 moles of 1-[3-(1,3-dimethyl-3,7-dihydro-1H-purine-2,6-dion-7-yl)-2-hydroxypropyl]piperazine dihydrochloride and 0.3 moles potassium carbonate in 600 grams dimethylformamide. The mixture was stirred overnight at 60° C. After cooling, the reaction mixture was poured into water, extracted with CH2Cl2, washed with water, dried, and evaporated with gentle heating. The residue was recrystallized from ethanol to give the free base form of 1-[3-(1,3-Dimethyl-3,7-dihydro-1H-purine-2,6-dion-7-yl)-2-hydroxypropyl]-4-(3-phenylsulfonylpropyl)piperazine, m.p. 168° C. The dihydrochloride was obtained by adjunction with 12N hydrogen chloride solution as described in Example III, m.p. 190° C.

reactant | 3-phenylsulfonyl-1-chloropropane | 0.13 Moles | C1(=CC=CC=C1)S(=O)(=O)CCCCl | C9H11ClO2S
reactant | 1-[3-(1,3-dimethyl-3,7-dihydro-1H-purine-2,6-dion-7-yl)-2-hydroxypropyl]piperazine dihydrochloride | 0.14 moles | Cl.Cl.CN1C(N(C=2N=CN(C2C1=O)CC(CN1CCNCC1)O)C)=O
reactant | potassium carbonate | 0.3 moles | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | dimethylformamide | 600 grams | CN(C=O)C | C3H7NO
product | 1-[3-(1,3-Dimethyl-3,7-dihydro-1H-purine-2,6-dion-7-yl)-2-hydroxypropyl]-4-(3-phenylsulfonylpropyl)piperazine | CN1C(N(C=2N=CN(C2C1=O)CC(CN1CCN(CC1)CCCS(=O)(=O)C1=CC=CC=C1)O)C)=O | C23H32N6O5S
